US08609727B2
Methyl 4-[(3E)-2-[2-(4-cyanophenyl)ethyl]-4-{2-[(5,5,5-trifluoropentyl)oxy]phenyl}but-3-en-1-yl]benzoate
A solution of 200 mg (0.486 mmol) of methyl 4-[(3E)-2-[2-(4-cyanophenyl)ethyl]-4-(2-hydroxyphenyl)but-3-en-1-yl]benzoate in 10 ml of acetonitrile is mixed with 101 mg (0.73 mmol) of potassium carbonate and 149 mg (0.73 mmol) of 1,1,1-trifluoro-5-bromopentane [CAS Reg. No. 54932-74-00] and stirred under reflux for 12 h. After conversion is complete, the salts are filtered off and the mother liquor is evaporated. 205 mg (0.28 mmol, 79% of theory) of the title compound are obtained.

reactant | methyl 4-[(3E)-2-[2-(4-cyanophenyl)ethyl]-4-(2-hydroxyphenyl)but-3-en-1-yl]benzoate | 0.486 mmol, 200 mg | C(#N)C1=CC=C(C=C1)CCC(CC1=CC=C(C(=O)OC)C=C1)\C=C\C1=C(C=CC=C1)O | C27H25NO3
reactant | potassium carbonate | 0.73 mmol, 101 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 1,1,1-trifluoro-5-bromopentane | 0.73 mmol, 149 mg | FC(CCCCBr)(F)F | C5H8BrF3
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | Methyl 4-[(3E)-2-[2-(4-cyanophenyl)ethyl]-4-{2-[(5,5,5-trifluoropentyl)oxy]phenyl}but-3-en-1-yl]benzoate | C(#N)C1=CC=C(C=C1)CCC(CC1=CC=C(C(=O)OC)C=C1)\C=C\C1=C(C=CC=C1)OCCCCC(F)(F)F | C32H32F3NO3
